US07544685B2
A mixture of 4-methyl-1H-indole (15.7 g, 0.12 mol), diethyl ether (300 mL) and tetrahydrofuran (300 mL) was stirred at room temperature. To this solution was added oxalyl chloride (22.8 g, 0.18 mol) drop wise. The resulting solution was stirred at room temperature for 16 h. Ethanol (100 mL) was added, and the mixture was stirred for 5 min. Triethylamine (100 mL) was added under cooling (20-30° C.) and then ice (200 mL) and brine (1 L). The aqueous phase was extracted with ethyl acetate, and the combined organic phase was washed with brine, dried (MgSO4) and concentrated in vacuo. The solid compound formed was stirred with diethyl ether, collected by filtration and dried in vacuo to give ethyl (4-methyl-1H-indol-3-yl)-oxo-acetate (22.5 g). This compound was dissolved in tetrahydrofuran (250 mL) and subsequently added to lithium aluminium hydride (13 g, 0.35 mol) in tetrahydrofuran (500 mL). The resulting mixture was boiled under reflux for 1 h and then quenched with water (50 mL). The mixture was filtered, and the mother liquor was concentrated in vacuo. The residue was purified by flash chromatography (ethyl acetate/heptane 50:50) and subsequently crystallised from ethyl acetate to give 2-(4-methyl-1H-indol-3-yl)ethanol (14.4 g, 85%). To a mixture of 2-(4-methyl-1H-indol-3-yl)ethanol (14.4 g, 0.08 mol), borane trimethylamine complex (64 g, 0.88 mol) and 1,4-dioxane (500 mL) was added 37% aqueous HCl (55 mL), and the resulting mixture was stirred at room temperature for 16 h. The mixture was boiled under reflux for 1.5 h. 6 M aqueous HCl (260 mL) was added, and 300 mL of 1,4-dioxane/water was removed by distillation. The aqueous phase was cooled to 20° C. and then made alkaline by the use of 28% aqueous sodium hydroxide. The aqueous phase was added brine (500 mL) and extracted with ethyl acetate. The combined organic phase was washed with brine, dried (MgSO4) and concentrated in vacuo. The residue was purified by flash chromatography (ethyl acetate) to give the title compound (12.5 g, 86%).

reactant | 4-methyl-1H-indole | 0.12 mol, 15.7 g | CC1=C2C=CNC2=CC=C1 | C9H9N
reactant | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
reactant | oxalyl chloride | 0.18 mol, 22.8 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | brine | 1 L | [Cl-].[Na+].O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | Triethylamine | 100 mL | C(C)N(CC)CC | C6H15N
solvent | Ethanol | 100 mL | C(C)O | C2H6O
solvent | diethyl ether | 300 mL | C(C)OCC | C4H10O
product | ethyl (4-methyl-1H-indol-3-yl)-oxo-acetate | 22.5 g | CC1=C2C(=CNC2=CC=C1)C(C(=O)OCC)=O | C13H13NO3
